US06225311B1
According to the procedure of Example 20, 1.500 g (8.95 mmol) of D,L-valine methyl ester hydrochloride and 2.19 g (8.95 mmol) of 4-but-2-ynyloxybenzenesulfonyl chloride provided 2.15 g of the NH-sulfonamide ester, 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester, as a white solid.

reactant | D,L-valine methyl ester hydrochloride | 8.95 mmol, 1.500 g | Cl.COC(C(N)C(C)C)=O
reactant | 4-but-2-ynyloxybenzenesulfonyl chloride | 8.95 mmol, 2.19 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
product | 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C16H21NO5S
